US04596819
Carbobenzoxy-L-leucylglycine, 1,1-dimethylethyl ester
To a cold solution of 5.00 g of carbobenzoxy-L-leucine, 2.55 g of 1-hydroxybenzotriazole hydrate and 2.47 g of glycine 1,1-dimethylethyl ester in 100 ml of 1:1 acetonitrile/tetrahydrofuran is added dropwise a solution of 3.89 g of N,N-dicyclohexylcarbodiimide in 40 ml of tetrahydrofuran. The solution is stirred overnight allowing the ice bath to melt. The mixture is filtered and the solvent removed under reduced pressure. The residue is dissolved in ethyl acetate and washed with water, a 0.1M citric acid solution, a saturated sodium bicarbonate solution and then a saturated brine solution. After drying over magnesium sulfate, the solvent is removed under reduced pressure. The residue is chromatographed on silica gel eluting with 7:3 chloroform/ethyl acetate giving 6.68 g of an oil.

reactant | carbobenzoxy-L-leucine | 5.00 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | 1-hydroxybenzotriazole hydrate | 2.55 g | O.ON1N=NC2=C1C=CC=C2
reactant | glycine 1,1-dimethylethyl ester | 2.47 g | CC(C)(C)OC(CN)=O | C6H13NO2
solvent | acetonitrile tetrahydrofuran | 100 ml | C(C)#N.O1CCCC1
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Carbobenzoxy-L-leucylglycine, 1,1-dimethylethyl ester | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)NCC(=O)OC(C)(C)C | C20H30N2O5
